US20010046993A1
A. 1-[3-(4-Benzyl-1-piperazinyl)propyl]-2,5-pyrrolidinedione
To a mixture of 3-(4-benzylpiperazin-1-yl)propan-1-ol (48.5 g/0.21 mol), triphenylphosphine (81.6 g/0.31 mol), succimide (30.7 g/0.31 mol) in tetrahydrofuran (1000 ml) was added dropwise diethylazodicarboxylate (49.0 ml/0.31 mol) and the mixture was stand overnight. The solvent was removed in vacuo and the residue was purified by column chromatography (Si/230-400 mesh/dichloromethane:methanol=15:1) to give a colorless oil (55.1 g/83%).

reactant | 3-(4-benzylpiperazin-1-yl)propan-1-ol | 0.21 mol, 48.5 g | C(C1=CC=CC=C1)N1CCN(CC1)CCCO | C14H22N2O
reactant | triphenylphosphine | 0.31 mol, 81.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | succimide | 0.31 mol, 30.7 g | C1CC(=O)NC1=O | C4H5NO2
reactant | diethylazodicarboxylate | 0.31 mol, 49.0 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 1-[3-(4-Benzyl-1-piperazinyl)propyl]-2,5-pyrrolidinedione | C(C1=CC=CC=C1)N1CCN(CC1)CCCN1C(CCC1=O)=O | C18H25N3O2
